US04737516
(J) 3-Acetyl-7-methylbenzo[b]thiophene
420 mg of borontrifluoride-etherate are added to a mixture of 2 g of 7-methylbenzo[b]thiophene and 1.4 ml acetanhydride at 50° and the mixture warmed to 60° for 80 minutes. The resulting mixture is poured onto ice, extracted with ether and the organic phase washed, dried and concentrated on a rotary evaporator. The residue is chromatographed on silica gel (eluant: n-hexane) to obtain the title compound, contaminated with the 2-acetylisomer, as an oil for direct further reaction.

reactant | borontrifluoride-etherate | 420 mg | B(F)(F)F.CCOCC
reactant | 7-methylbenzo[b]thiophene | 2 g | CC1=CC=CC2=C1SC=C2 | C9H8S
reactant | acetanhydride | 1.4 ml | CC(=O)OC(=O)C | C4H6O3
product | 3-Acetyl-7-methylbenzo[b]thiophene | C(C)(=O)C=1C2=C(SC1)C(=CC=C2)C | C11H10OS
